US09193720B2
A mixture of (S)-ethyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate (0.0462 g, 0.101 mmol), (4-phenoxyphenyl)boronic acid (0.033 g, 0.152 mmol) and 2M Na2CO3 (0.127 ml, 0.254 mmol) degassed for 10 min. Then, Pd(Ph3P)4 (0.012 g, 10.14 μmol) added, degassed for 5 min and placed in a pre-heated oil bath 110° C. After 2 h, cooled and purified by pre-HPLC to afford (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethyl-5-(4-phenoxyphenyl)pyridin-3-yl)acetate (0.0162 g, 0.030 mmol, 29.3% yield) as white solid. 1H NMR (500 MHz, CDCl3 δ7.34-7.39 (m, 2H), 7.24-7.28 (m, 1H), 7.09-7.17 (m, 4H), 7.04-7.08 (m, 2H), 6.09 (s, 1H), 4.14-4.30 (m, 2H), 3.20 (d, J=12.3 Hz, 1H), 2.88 (t, J=11.7 Hz, 1H), 2.62 (s, 3H), 2.33 (d, J=11.5 Hz, 1H), 2.25 (s, 3H), 2.12 (t, J=11.4 Hz, 1H), 1.57 (dt, J=4.3, 12.5 Hz, 1H), 1.37-1.44 (m, 1H), 1.26 (t, J=7.1 Hz, 4H), 1.19-124 (m, 1H), 1.22 (s, 9H), 1.12 (d, J=12.1 Hz, 1H), 0.93 (s, 3H), 0.72 (s, 3H). LCMS (M+H)=545.4.

reactant | (S)-ethyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate | 0.101 mmol, 0.0462 g | BrC=1C(=C(C(=NC1C)C)[C@@H](C(=O)OCC)OC(C)(C)C)N1CCC(CC1)(C)C | C22H35BrN2O3
reactant | (4-phenoxyphenyl)boronic acid | 0.152 mmol, 0.033 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)B(O)O | C12H11BO3
reactant | Na2CO3 | 0.254 mmol, 2M, 0.127 ml | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(Ph3P)4 | 10.14 μmol, 0.012 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethyl-5-(4-phenoxyphenyl)pyridin-3-yl)acetate | 0.030 mmol, 0.0162 g, 29.3% yield | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OC1=CC=CC=C1)C)C | C34H44N2O4
